US07799805B2
2,2-Difluoroethylamine (660 mg, 7.90 mmol) was added to a sol. of 3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-benzaldehyde (1.50 g, 5.27 mmol) in MeOH (53 mL). The mixture was heated to reflux for 4 h, and was allowed to cool down to rt. NaBH4 (300 mg, 7.90 mmol) was added carefully by portions, and the mixture was stirred for 1 h. The solvents were removed under reduced pressure, and the resulting oil was diluted with EtOAc. The mixture was washed with aq. sat. NaHCO3 and brine. The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure to yield [3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-benzyl]-(2,2-difluoro-ethyl)-amine (1.86 g) as a clear crude oil that was used further directly. This crude material was dissolved in CH2Cl2 (53 mL), and DIPEA (2.7 mL, 15.6 mmol) was added, followed by Boc2O (1.70 g, 7.90 mmol). The mixture was stirred at rt for 1 h. The mixture was diluted with CH2Cl2 (50 mL), and washed with aq. 1M HCl, aq. sat. NaHCO3, and brine. The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (EtOAc/heptane 5:95) yielded the title compound (2.27 g, 96%). LC-MS: tR=1.22 min.

reactant | 2,2-Difluoroethylamine | 7.90 mmol, 660 mg | FC(CN)F | C2H5F2N
reactant | 3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-benzaldehyde | 5.27 mmol, 1.50 g | C(C)(C)(C)[SiH2]OC(C=1C=C(C=O)C=CC1Cl)(C)C | C14H21ClO2Si
reactant | NaBH4 | 7.90 mmol, 300 mg | [BH4-].[Na+]
solvent | MeOH | 53 mL | CO | CH4O
product | [3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-benzyl]-(2,2-difluoro-ethyl)-amine | 1.86 g | C(C)(C)(C)[SiH2]OC(C=1C=C(CNCC(F)F)C=CC1Cl)(C)C | C16H26ClF2NOSi
